US06187802B1
A solution of 1-(2-naphthyl)cyclobutanecarbonitrile (48.2 g) in toluene (100 ml) was added dropwise under nitrogen to a stirred solution of methylmagnesium iodide [prepared in the usual manner from iodomethane (22 ml) and magnesium (8.16 g)] in ether (60 ml), then the mixture was stirred at ambient temperature for 18 hours. The resulting solid was collected by filtration, washed with ether (50 ml), and added in portions to a mixture of concentrated hydrochloric acid (125 ml) and water (200 ml). The mixture was heated at 100° C. with occasional stirring for 10 minutes, then it was cooled to ambient temperature. The product was extracted into toluene (3×200 ml), then the extracts were washed with water (200 ml), and the solvent was removed in vacua. The residue was triturated with petroleum ether (b.p. 40-60° C.) (100 ml), and the resulting solid was collected by filtration and dried in vacuo to give 1-[1-(2-naphthyl)cyclobutyl]ethanone as a yellow solid (35 g) which was used without further purification.

reactant | 1-(2-naphthyl)cyclobutanecarbonitrile | 48.2 g | C1=C(C=CC2=CC=CC=C12)C1(CCC1)C#N | C15H13N
reactant | methylmagnesium iodide | C[Mg]I
reactant | iodomethane | 22 ml | IC | CH3I
reactant | magnesium | 8.16 g | [Mg] | Mg
reactant | ether | 60 ml | CCOCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[1-(2-naphthyl)cyclobutyl]ethanone | 35 g | C1=C(C=CC2=CC=CC=C12)C1(CCC1)C(C)=O | C16H16O
